US06245761B1
Preparation of N-cyclopropyl-4-(2-fluoro-5-bromobenzyloxy)but-2-ynyl amine
A solution of cyclopropylamine (1.10 ml, 15.8 mmol) was added to a solution of 4-(2-fluoro-5-bromobenzyloxy)but-2-ynyl bromide (530 mg, 1.58 mmol) in tetrahydrofuran (8 ml). The cloudy reaction mixture was stirred for about thrity minutes. The reaction mixture was then cooled to 0° C., and held at this temperature for about four hours, at which time no starting material remained, as determined by thin layer chromatography. The reaction mixture was diluted with methylene chloride (50 ml) and washed with 1 M potassium carbonate (10 ml). The organic fraction was dried over sodium sulfate. The solvents were removed in vacuo. The resulting oil was further purified by preparative high performance liquid chromatography, affording 362 mg (73%) of the title intermediate as a clear oil.

reactant | cyclopropylamine | 15.8 mmol, 1.10 ml | C1(CC1)N | C3H7N
reactant | 4-(2-fluoro-5-bromobenzyloxy)but-2-ynyl bromide | 1.58 mmol, 530 mg | FC1=C(COCC#CCBr)C=C(C=C1)Br | C11H9Br2FO
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-cyclopropyl-4-(2-fluoro-5-bromobenzyloxy)but-2-ynyl amine | 362 mg, 73% | C1(CC1)NCC#CCOCC1=C(C=CC(=C1)Br)F | C14H15BrFNO
